US09290517B2
(3R,3aR,6R,6aS)-3-[[6-chloro-5-(4-phenylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-6-hydroxy-3,3a,5,6a-tetrahydro-2H-furo[3,2-b]furan-6-carbaldehyde
Sodium periodate (21.9 mg, 0.102 mmol) was added to a stirred suspension of (3R,3aR,6R,6aS)-3-[[6-chloro-5-(4-phenylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-6-vinyl-3,3a,5,6a-tetrahydro-2H-furo[3,2-b]furan-6-ol (23.4 mg, 0.049 mmol) and ruthenium(III) chloride hydrate (1.0 mg, 4.44 μmol) in acetonitrile (0.42 ml) and water (0.07 ml). The reaction mixture was stirred at room temperature for 4 h, then partitioned between EtOAc (20 ml) and saturated aqueous sodium thiosulfate (20 ml). The aqueous layer was extracted with EtOAc (2×20 ml). The organic layers were combined, washed with brine (1×10 ml), dried over MgSO4, filtered, and evaporated under reduced pressure to give a colorless residue. The residue was dissolved in EtOAc/MeOH and loaded onto a 500 micron 20 cm×20 cm silica gel plate, which was developed twice using 5% MeOH/DCM. The silica containing the product band was collected and eluted with 10% MeOH/DCM (80 ml). The solvent was evaporated under reduced pressure to give the title compound as a colorless residue. LC-MS: calculated for C25H20ClN3O5 477.11 observed m/e: 478.05 (M+H)+ (Rt 1.15/2 min)

reactant | Sodium periodate | 0.102 mmol, 21.9 mg | I(=O)(=O)(=O)[O-].[Na+]
reactant | (3R,3aR,6R,6aS)-3-[[6-chloro-5-(4-phenylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-6-vinyl-3,3a,5,6a-tetrahydro-2H-furo[3,2-b]furan-6-ol | 0.049 mmol, 23.4 mg | ClC=1C=C2C(=NC1C1=CC=C(C=C1)C1=CC=CC=C1)N=C(N2)O[C@H]2[C@@H]1[C@H](OC2)[C@@](CO1)(O)C=C | C26H22ClN3O4
reactant | MeOH DCM | CO.C(Cl)Cl
solvent | acetonitrile | 0.42 ml | C(C)#N | C2H3N
solvent | water | 0.07 ml | O | H2O
solvent | EtOAc MeOH | CCOC(=O)C.CO
catalyst | ruthenium(III) chloride hydrate | 4.44 μmol, 1.0 mg | O.[Ru](Cl)(Cl)Cl
product | (3R,3aR,6R,6aS)-3-[[6-chloro-5-(4-phenylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-6-hydroxy-3,3a,5,6a-tetrahydro-2H-furo[3,2-b]furan-6-carbaldehyde | ClC=1C=C2C(=NC1C1=CC=C(C=C1)C1=CC=CC=C1)N=C(N2)O[C@H]2[C@@H]1[C@H](OC2)[C@](CO1)(C=O)O | C25H20ClN3O5
